US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepine-1,2-dione-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride
3.5 gm of selenium dioxide were added to a mixture of 150 ml of diozane and 6 ml of water at 70° C.; the mixture was stirred for 15 minutes and then admixed with 3 gm of diatomaceous earth and 14.8 gm (0.03 mol) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride. The mixture was refluxed for 6 hours, cooled and filtered. The filtrate was evaporated in vacuo and the residue was purified on a silica gel column with methylene chloride +1% of ethanol as the eluant. The fractions were evaporated in vacuo; the residue was dissolved in acetone, and the hydrochloride was precipitated with ethereal hydrochloric acid.

reactant | selenium dioxide | 3.5 gm | [Se](=O)=O | O2Se
reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride | 0.03 mol, 14.8 gm | Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC
solvent | water | 6 ml | O | H2O
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepine-1,2-dione-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(C(C(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)=O)C=C1OC | InChI=1S/C26H34N2O6.ClH/c1-27(13-9-18-7-8-21(31-2)22(15-18)32-3)11-6-12-28-14-10-19-16-23(33-4)24(34-5)17-20(19)25(29)26(28)30;/h7-8,15-17H,6,9-14H2,1-5H3;1H
